US07737166B2
7-Fluoro-2-(methoxymethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-59)
p-Toluenesulfonic acid monohydrate (38 mg, 0.2 mmol) was added to a toluene (30 ml) solution of 4-amino-5-cyano-2-fluoro-6-methylbiphenyl-3-yl methoxyacetate (I-58) (214 mg, 0.68 mmol), followed by stirring for 3 hours and a half with heating under reflux. After cooling to room temperature, the reaction liquid was diluted with ethyl acetate, washed with saturated sodium bicarbonate water and saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (4:1) was concentrated under reduced pressure to obtain the entitled compound (160 mg, 79%) as a pale yellow solid.

reactant | p-Toluenesulfonic acid monohydrate | 0.2 mmol, 38 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-amino-5-cyano-2-fluoro-6-methylbiphenyl-3-yl methoxyacetate | 0.68 mmol, 214 mg | COCC(=O)OC=1C(=C(C(=C(C1N)C#N)C)C1=CC=CC=C1)F | C17H15FN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-2-(methoxymethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 160 mg, 79% | FC=1C(=C(C(=C2N=C(OC21)COC)C#N)C)C2=CC=CC=C2 | C17H13FN2O2
